US07906537B2
To a solution of (4-amino-3-methylphenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester (15.2 mg, 40 mol) in DMF (100 μL) was added a solution of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, 27.4 mg, 72 mol) in DMF (100 μL), followed by i-Pr2NEt (25 μL, 144 mol) and piperidin-1-yl-acetic acid (8.6 mg, 60 mol). The resulting mixture was shaken at room temperature for 3 hours after which it was diluted with ethyl acetate (10 mL), washed with saturated aqueous ammonium chloride (2×10 mL), dried over sodium sulfate, and evaporated. The residue was purified on a FlashMaster system (silica, eluted with heptane/ethyl acetate mixtures) to yield [3-methyl-4-(2-piperidin-1-yl-acetylamino)-phenyl]-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester as a white solid (10.7 mg, 53%). This was dissolved in dichloromethane (200 μL) and trifluoroacetic acid (200 μL), and the solution was kept at room temperature for 30 minutes, after which volatiles were evaporated and the residue was dried in vacuo at 0.1 mmHg and +40° C. for 1 hour. The resulting trifluoroacetic acid addition salt of the title compound was obtained as a yellow semisolid in quantitative yield.

reactant | (4-amino-3-methylphenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester | 40 mol, 15.2 mg | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)N)C)=O | C20H23F3N2O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 72 mol, 27.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | i-Pr2NEt | 144 mol, 25 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | piperidin-1-yl-acetic acid | 60 mol, 8.6 mg | N1(CCCCC1)CC(=O)O | C7H13NO2
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | [3-methyl-4-(2-piperidin-1-yl-acetylamino)-phenyl]-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester | 10.7 mg, 53% | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)NC(CN1CCCCC1)=O)C)=O | C27H34F3N3O3
